US08283354B2
A solution of 4-chloro-6-fluoro-2-(2-methoxyphenyl)quinazoline (3.0 g, 10.3 mmol) in CH2Cl2 (15 mL) was cooled to −78° C. Then, 1 M BBr3 (51.95 mL, 59.95 mmol) was added dropwise. The reaction was warmed to room temperature and was quenched with NaHCO3 and extracted twice with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 5-20% CH2Cl2 in hexanes gave 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol (1.61 g, 57%). LC/MS: m/z 275.1 (M+H)+ at 3.8 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-chloro-6-fluoro-2-(2-methoxyphenyl)quinazoline | 10.3 mmol, 3.0 g | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)OC | C15H10ClFN2O
reactant | BBr3 | 59.95 mmol, 1 M, 51.95 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-6-fluoroquinazolin-2-yl)phenol | 1.61 g, 57% | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)O | C14H8ClFN2O
